US06320050B1
A solution of 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-propionic acid methyl ester (1.04 g, 3.73 mmol) in tetrahydrofuran/water/methanol (9.3 mL, 3:1:1) was treated with a 1N aqueous lithium hydroxide solution (3.73 mL, 3.73 mmol). The reaction was stirred at 25° C. for 18 h. At this time, the reaction was acidified to pH=1 with a 1N aqueous hydrochloric acid solution and extracted with ethyl acetate (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-propionic acid (707.8 mg, 71.3%) as a white solid: mp 149-151° C.; EI-HRMS m/e calcd for C15H19FO3 (M+) 266.1318 found 266.1317.

reactant | 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-propionic acid methyl ester | 3.73 mmol, 1.04 g | COC(C(CC1CCCC1)C1=CC(=C(C=C1)OC)F)=O | C16H21FO3
reactant | lithium hydroxide | 3.73 mmol, 1N, 3.73 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran water methanol | 9.3 mL | O1CCCC1.O.CO
product | 3-cyclopentyl-2-(3-fluoro-4-methoxy-phenyl)-propionic acid | 707.8 mg, 71.3% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)OC)F | C15H19FO3
